US07674793B2
3-(4,6-Dioxo-2,3,4,6,7,8,9,10-octahydro-1H-phenazin-5-yl)-benzonitrile
3-[(2-Amino-6-oxo-cyclohex-1-enyl)-(2-hydroxy-6-oxo-cyclohex-1-enyl)-amino]-benzonitrile (0.4 mmoL) in THF (5 mL) was treated with NaNH2 (1 mmoL) at 70° C. for 6 h. The solvent was removed and the residue was partitioned between DCM and water. The organic layer was washed with brine, dried over anhydrous Na2SO4, filtered and concentrated to give the crude material, which was then purified by silica gel column chromatography to give the title compound as a white solid.

reactant | 3-[(2-Amino-6-oxo-cyclohex-1-enyl)-(2-hydroxy-6-oxo-cyclohex-1-enyl)-amino]-benzonitrile | NC1=C(C(CCC1)=O)N(C=1C=C(C#N)C=CC1)C1=C(CCCC1=O)O | C19H19N3O3
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-(4,6-Dioxo-2,3,4,6,7,8,9,10-octahydro-1H-phenazin-5-yl)-benzonitrile | O=C1CCCC=2NC=3CCCC(C3N(C12)C=1C=C(C#N)C=CC1)=O | C19H17N3O2
